US05932735
1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl 2-Methoxyethoxyacetate
34.4 grams of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 29.6 grams of methyl 2-methoxyethoxyacetate and 300 mL of heptane are transferred to a 500 mL 3-necked, round-bottomed flask equipped with a mechanical stirrer, Dean-Stark trap and condenser. Trace amounts of water are removed by azeotropic distillation. 0.25 mL of tetraisopropyl orthotitanate is added to the reaction mixture. The reaction mixture is refluxed for six hours and the liberated methanol is collected in the Dean-Stark trap. The reaction mixture is allowed to cool and is then partitioned between 300 mL of ethyl acetate and 300 mL of water. The phases are separated and the organic phase is washed with water and dried over anhydrous magnesium sulfate. Evaporation of the solvent leaves the title compound as a red oil.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 34.4 grams | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | methyl 2-methoxyethoxyacetate | 29.6 grams | COCCOCC(=O)OC | C6H12O4
solvent | heptane | 300 mL | CCCCCCC | C7H16
product | 1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl 2-Methoxyethoxyacetate | COCCOCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C14H27NO5
